US06537948B1
10.0 g of 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol was dissolved in 30 ml of N,N-dimethylformamide, to this was added 5.0 ml of triethylamine, then 5.0 g of methyl 2-chloroacetoacetate was added to the resulted mixture at room temperature with stirring. Then, stirring was continued for 10 minutes at room temperature and for 1 hour at 60° C. 2.0 ml of triethylamine and 2.0 g of methyl 2-chloroacetoacetate were added to this solution, then, the mixture was further stirred for 1 hour at 60° C. The reaction solution was stirred overnight at room temperature, then, the reaction solution was poured into ice water and dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 7.86 g methyl 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-oxobutyrate.

reactant | 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol | 10.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H7ClF4N2O3
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2-chloroacetoacetate | 5.0 g | ClC(C(=O)OC)C(=O)C | C5H7ClO3
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2-chloroacetoacetate | 2.0 g | ClC(C(=O)OC)C(=O)C | C5H7ClO3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-oxobutyrate | 7.86 g | ClC1=C(OC(C(=O)OC)C(C)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H13ClF4N2O6
